*******************************************************************************
* Copyright (C) Maxim Integrated Products, Inc., All Rights Reserved.
*
* Permission is hereby granted, free of charge, to any person obtaining a
* copy of this software and associated documentation files (the "Software"),
* to deal in the Software without restriction, including without limitation
* the rights to use, copy, modify, merge, publish, distribute, sublicense,
* and/or sell copies of the Software, and to permit persons to whom the
* Software is furnished to do so, subject to the following conditions:
*
* The above copyright notice and this permission notice shall be included
* in all copies or substantial portions of the Software.
*
* THE SOFTWARE IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS
* OR IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF
* MERCHANTABILITY, FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT.
* IN NO EVENT SHALL MAXIM INTEGRATED BE LIABLE FOR ANY CLAIM, DAMAGES
* OR OTHER LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE,
* ARISING FROM, OUT OF OR IN CONNECTION WITH THE SOFTWARE OR THE USE OR
* OTHER DEALINGS IN THE SOFTWARE.
*
* Except as contained in this notice, the name of Maxim Integrated
* Products, Inc. shall not be used except as stated in the Maxim Integrated
* Products, Inc. Branding Policy.
*
* The mere transfer of this software does not imply any licenses
* of trade secrets, proprietary technology, copyrights, patents,
* trademarks, maskwork rights, or any other form of intellectual
* property whatsoever. Maxim Integrated Products, Inc. retains all
* ownership rights.
***************************************************************
* MAX15007A is an ultra-low quiescent-current linear regulator with an input voltage range 4V to 40V[3.3V].

*********************************************************** **********************************************************************
.subckt MAX15007A 1   2   3    4    5   6   7    8 
*                 |   |   |    |    |   |   |    |       
*                 |   |   |    |    |   |   |    |    
*                 |   |   |    |    |   |   |    |
*                 |   |   |    |    |   |   |     Output
*                 |   |   |    |    |   |   |
*                 |   |   |    |    |   |    Not Connected
*                 |   |   |    |    |   |
*                 |   |   |    |    |   Not Connected
*                 |   |   |    |    |
*                 |   |   |    |    Ground
*                 |   |   |    |
*                 |   |   |    Not Connected
*                 |   |   | 
*                 |   |   Active-High Enable Input
*                 |   |
*                 |   Not Connected
*                 |  
*                 Regulator Supply Input
*
* Date of model creation: 
*		  11/2007
*
*
* Revision History: 
* 		  Version 0
*         Version 1
* 
* Recommendations:
*     	Use SIMETRIX (or SPICE 2G6; other simulators may require translation)
*     	For a quick, effective design, use a combination of: data sheet
* 	    specs, bench testing, and simulations with this macromodel
*			
*
* Supported:
*	     Minimum Input Voltage , Load Regulation ,PSRR 
*        Model works only at temperature of 27 degree celsius.
*
*
* Not Supported:
*       MAX15007 EN Feature is not implemented in this model.
*       Model does not support over temperature variation
*     	Startup , Line Transient , Load Transient , Dropout 	
*
*   Known Discrepancies in Model vs. Datasheet:
*     
*
**************************************************************************************************
V_MAX15007A_V11         MAX15007A_N9380642 MAX15007A_N9407721 3.3Vdc
V_MAX15007A_V8         MAX15007A_N9381134 5 1.4Vdc
G_MAX15007A_G4         MAX15007A_N9380206 5 MAX15007A_N9380242 5 -1
X_MAX15007A_M4         MAX15007A_N9402937 MAX15007A_N9388475 MAX15007A_N9380362
+  MAX15007A_N9380362 pmosmacro_str
D_MAX15007A_D15         8 MAX15007A_N9380438 diodemacro_ideal 
G_MAX15007A_G5         1 5 MAX15007A_N9407721 5 2.24485u
G_MAX15007A_G3         MAX15007A_N9380242 5 MAX15007A_N9380230 5 -1
R_MAX15007A_R7         5 MAX15007A_N9380206  1  
C_MAX15007A_C5         5 MAX15007A_N94009661  1u  
E_MAX15007A_E1         MAX15007A_N9381374 5 MAX15007A_N93812080 1 5000
D_MAX15007A_D16         MAX15007A_N9380502 8 diodemacro_ideal 
R_MAX15007A_R10         MAX15007A_N94009661 MAX15007A_N9401315  0.1m  
C_MAX15007A_C3         5 MAX15007A_N9380242  450.886u  
E_MAX15007A_E11         MAX15007A_N9380230 5 MAX15007A_N93802580 5 1
E_MAX15007A_E2         MAX15007A_N9381384 5 MAX15007A_N93812280 1 -10
G_MAX15007A_G8         MAX15007A_N9423585 5 MAX15007A_N9380230 5 -1
D_MAX15007A_D3         MAX15007A_N9380242 MAX15007A_N93809961 diodemacro_ideal 
R_MAX15007A_R11         MAX15007A_N9401315 MAX15007A_N9401152  1  
V_MAX15007A_V10         5 MAX15007A_N93802761 1.4Vdc
E_MAX15007A_E12         MAX15007A_N9388475 MAX15007A_N9380230 1 5 1
E_MAX15007A_E10         MAX15007A_N9380362 5 1 5 1
V_MAX15007A_V9         MAX15007A_N93809961 5 1.2405Vdc
V_MAX15007A_V3         MAX15007A_N93812280 5 40Vdc
R_MAX15007A_R1         MAX15007A_N9380294 MAX15007A_N9380642  6545  
R_MAX15007A_R8         MAX15007A_N9381616 MAX15007A_N9396132  10k  
E_MAX15007A_E8         MAX15007A_N9396132 5 MAX15007A_N9380294
+  MAX15007A_N9380206 5300
X_MAX15007A_F1    MAX15007A_N9380642 MAX15007A_N9380172 1 5
+  Max15006_MAX15007A_F1 
R_MAX15007A_R6         MAX15007A_N9380230 MAX15007A_N9380742  0.01  
R_MAX15007A_R2         5 MAX15007A_N9380294  3955  
V_MAX15007A_V4         MAX15007A_N93812080 5 4.0022Vdc
D_MAX15007A_CO8_D1         MAX15007A_N93802580 MAX15007A_N9381134
+  diodemacro_mostideal 
G_MAX15007A_CO8_G1         MAX15007A_N93802580 MAX15007A_N93802761
+  MAX15007A_N9381076 MAX15007A_N9381134 -1E3
D_MAX15007A_CO8_D2         MAX15007A_N93802761 MAX15007A_N93802580
+  diodemacro_mostideal 
X_MAX15007A_M1         MAX15007A_N9380642 MAX15007A_N9402937 MAX15007A_N9380362
+  MAX15007A_N9380362 pmosmacro_reg
R_MAX15007A_R13         5 MAX15007A_N9423585  1  
G_MAX15007A_G9         MAX15007A_N9381172 5 MAX15007A_N9423585 5 357.143n
V_MAX15007A_V12         MAX15007A_N9381172 5 14Vdc
C_MAX15007A_C2         MAX15007A_N9380742 5  0.1p  
G_MAX15007A_G7         MAX15007A_N9402937 5 MAX15007A_N9401152 5 -0.1u
X_MAX15007A_M2         MAX15007A_N9380206 MAX15007A_N9381374 5 5 nmosmacro_str
C_MAX15007A_C4         5 MAX15007A_N93974751  0.08u  
R_MAX15007A_R9         MAX15007A_N93974751 MAX15007A_N9381616  50  
I_MAX15007A_I2         1 5 DC 10.408uAdc  
D_MAX15007A_D18         5 MAX15007A_N9423585 diodemacro_mostideal 
R_MAX15007A_R12         5 MAX15007A_N9402937  10Meg  
X_MAX15007A_M3         MAX15007A_N9380206 MAX15007A_N9381384 5 5 nmosmacro_str
I_MAX15007A_I10         MAX15007A_N9380438 MAX15007A_N9380502 DC 80mAdc  
X_MAX15007A_F2    MAX15007A_N9380172 MAX15007A_N9380178 1 5
+  Max15006_MAX15007A_F2 
E_MAX15007A_E7         MAX15007A_N9381076 MAX15007A_N9381172 MAX15007A_N9380742
+  5 -79m
E_MAX15007A_E9         MAX15007A_N9401152 5 MAX15007A_N9381616 5 1
D_MAX15007A_D17         5 MAX15007A_N9380242 diodemacro_mostideal 
D_MAX15007A_D13         MAX15007A_N9380178 MAX15007A_N9380438 diodemacro_ideal 
D_MAX15007A_D14         MAX15007A_N9380502 MAX15007A_N9380178 diodemacro_ideal 
******************
.model diodemacro_ideal d(n=0.001)
.model diodemacro_mostideal d(IS=1E-12 N=0.000001 BV=35 IBV=1)
.model diodemacro_nonideal d(IS=1n RS=0.001 N=1.77 CJO=0.1p BV=35 IBV=1)
.ENDS MAX15007A
******************
.subckt Max15006_MAX15007A_F1 1 2 3 4  
F_MAX15007A_F1         3 4 VF_MAX15007A_F1 1.592m
VF_MAX15007A_F1         1 2 0V
.ENDS Max15006_MAX15007A_F1
.subckt Max15006_MAX15007A_F2 1 2 3 4  
F_MAX15007A_F2         3 4 VF_MAX15007A_F2 1
VF_MAX15007A_F2         1 2 0V
.ENDS Max15006_MAX15007A_F2
******************
.subckt pmosmacro_reg d g s b
m1 d g s b pmos
.model pmos pmos(VTO=-0.5 KP=0.12 w=1u l=1u) 
.ENDS pmosmacro_reg
***********
.subckt pmosmacro_str d g s b
m1 d g s b pmos
.model pmos pmos(VTO=-0.5 KP=50E-6 w=50u l=1u) 
.ENDS pmosmacro_str
***********
.subckt nmosmacro_str d g s b
m1 d g s b nmos
.model nmos nmos(VTO=0.5 KP=100E-6 w=20u l=1u) 
.ENDS nmosmacro_str
******************