*ZETEX ZXMP7A17K Spice Model v1.0 Last Revised 14/3/2007
    *
    .SUBCKT ZXMP7A17K 30 40 50
    *                D G S
    M1 6 2 5 5 Pmod L=1.35E-6 W=1.082
    M2 5 2 5 6 Nmod L=1.8E-6 W=0.6
    RG 4 2 1.9
    RIN 2 5 1E9
    RD 3 6 Rdmod 0.07
    RL 3 5 7E9
    D1 3 5  Dbodymod
    LD 3 30 1.3E-9
    LG 4 40 2.4E-9
    LS 5 50 2.4E-9
    .MODEL Pmod PMOS (LEVEL=3 TOX=5.5E-8 NSUB=50E15
    +VTO=-1.77 KP=2.5E-5 RS=.05 NFS=2E11 KAPPA=.002 UO=650 IS=1E-15 N=10)
    .MODEL Nmod NMOS (LEVEL=3 TOX=5.5E-8 NSUB=5.2E15 
    +TPG=-1 IS=1E-15 N=10)
    .MODEL Dbodymod D (IS=5E-12 RS=.02 IKF=0.02 TRS1=1.5e-3 CJO=380e-12 
    +M=0.43 VJ=0.41 TT=2.2e-8  BV=77)
    .MODEL Rdmod RES (TC1=9e-3 TC2=1.5E-5)
    .ENDS
    *
    *$
    *
