* Library of Vishay NTC Thermistors for LTspice XVII
*
*
* $Revision:   2.0  $
* $Author:   Alain Stas  $
* $Date:   20 June 2019 $
* $Revision History : addition of NTCS0402E3103_L1T
*---------------------------------------------------------------
*
* Vishay NTC Thermistors included in this file : NTCLE100/NTCLE101/NTCLE201/NTCLE203/NTCS
* DESCRIPTION: through hole and surface mount NTC thermistors
* For power rating and temperature range limitations, see
* NTCLE100 : http://www.vishay.com/thermistors/list/product-29049/
* NTCLE101 : http://www.vishay.com/thermistors/list/product-29046/ and 29152
* NTCLE203 :http://www.vishay.com/thermistors/list/product-29048/ and 29118
* NTCS0402:http://www.vishay.com/thermistors/list/product-29003/
* NTCS0603:http://www.vishay.com/thermistors/list/product-29056/
* NTCS0805:http://www.vishay.com/thermistors/list/product-29044/
* or use the search engine of Vishay for visualizing particular data sheet at http://www.vishay.com/
*
* the model is applicable for transient and steady states conditions under bias including self heating.
* tolerances TolB on Steinhart & Hart coef. are valid only between 25 and 85°C,and are only given for information outside this range
* the tolerances on R25 and B25/85 are simulated by the values of R2 and R3 under the form of a random distribution using the LT spice MC function
*$
.SUBCKT NTC_BASE Rn Rp Params:W=1 X=1 Y=1 Z=1 GTH=1 GTH1=1 CTH=1 A=1 R25=1 B=1 C=1 D=1 T0=273.15
R2 tR 0 {mc(1,tolR/100)}
R3 tB 0 {mc(1,tolB/100)}
I1 tR 0 -1
I2 tB 0 -1
G_G1         AOUT 0 VALUE { if(TEMP>25,V(AOUT,
+  0)/(R25*V(TR)*exp(((D*v(TB)/(T0+abs(V(H))+TEMP)+C*V(TB))/(T0+abs(V(H))+TEMP)+B*v(TB))/(T0+TEMP+abs(V(H)))+A*v(TB))),0)
+  }
G_G2         AOUT 0 VALUE { IF(TEMP>25,0,V(AOUT,
+  0)/(R25*v(TR)*exp(((Z*v(TB)/(T0+abs(V(H))+TEMP)+Y*v(TB))/(T0+abs(V(H))+TEMP)+X*v(TB))/(T0+abs(V(H))+TEMP)+W*v(TB))))
+  }
G_G3         H 0 VALUE {
+  if(TEMP>25,-V(RP,RN)*V(RP,RN)/(R25*v(TR)*exp(((D*v(TB)/(T0+abs(V(H))+TEMP)+C*v(TB))/(T0+abs(V(H))+TEMP)+B*v(TB))/
+  (T0+TEMP+abs(V(H)))+A*v(TB))),0)}
G_G4         H 0 VALUE {
+  if(TEMP>25,0,-V(RP,RN)*V(RP,RN)/(R25*v(TR)*exp(((Z*v(TB)/(T0+abs(V(H))+TEMP)+Y*v(TB))/(T0+abs(V(H))+TEMP)+X*v(TB))/
+  (T0+TEMP+abs(V(H)))+W*v(TB))))}
G_G5         RP RN VALUE { V(RP, RN)/V(AOUT) }
G_G6         H 0 VALUE { V(H)*(Gth + Gth1*(TEMP-25)) }
I_I1         0 AOUT DC 1Adc
R_R1         0 AOUT  1T TC=0,0
R_R2         0 H  1T TC=0,0
C_C1         0 H  {Cth}
.IC V(H)=0
.ENDS
*$
.SUBCKT NTCLE203E3103SB0 RN Rp  PARAMS: TR=0 TB=0
X64 Rn Rp NTC_BASE Params:
+ w=-14.6571976
+ x=4798.842
+ y=-115334
+ z=-3730535
+ gth=0.0032 gth1 = 0.0000167
+ cth=0.032
+ a=-14.65719769
+ r25=10000
+ b=4798.842
+ c=-115334
+ d=-3730535
+ T0=273.15
;+ TOLR=TR
;+ TOLB=TB
.ENDS
*$
.SUBCKT NTCLE203E3103_B0 RN Rp  PARAMS: TR=0 TB=0
X65 Rn Rp NTC_BASE Params:
+ w=-14.6571976
+ x=4798.842
+ y=-115334
+ z=-3730535
+ gth=0.0025 gth1 = 0.0000033
+ cth=0.028
+ a=-14.65719769
+ r25=10000
+ b=4798.842
+ c=-115334
+ d=-3730535
+ T0=273.15
;+ TOLR=TR
;+ TOLB=TB
.ENDS
