*
* =======================================
* PSpice-Simulationsmodell für Heißleiter
* =======================================    
*
*EPCOS OHG, DEUTSCHLANDSBERG   
*
*"NTC.LIB" Version 1.5,  13.03.2013
*
*
*
* Grundmodell:
* ============
*
*****************************************************************
*$
.subckt NTC 1 2 Params:B0=1, B1=1, B2=1, B3=0, B4=0, R25=10, 
+ CTH=1, GTH0=1, GTH1=1, T=1,
+ TK = 273.15
*****************************************************************
*
Gthem 1 4  Value={V(1,4)/(R25*T*(exp((((B4/(V(3)+TK+TEMP)+B3)/(V(3)+TK+TEMP)+B2)/(V(3)+TK+TEMP)+B1)/(V(3)+TK+TEMP)+B0)))}
*
RP 1 4 1T
RS 4 2 1n
*
Gtmp1 0 3  Value={V(1,4)*V(1,4)/(R25*T*(exp((((B4/(V(3)+TK+TEMP)+B3)/(V(3)+TK+TEMP)+B2)/(V(3)+TK+TEMP)+B1)/(V(3)+TK+TEMP)+B0)))}
C_par 3 0 {CTH}
R_par 3 0 1T
Gpar  3 0 Value={V(3)*(GTH0+(GTH1*(V(3)+TEMP)))}
*
.ends 
*$
**********************************************************
*
*
*
*
*
*
*
* ===================================
* Typen - Update vom März 2013
* ===================================
*
*
*
*
* Typen-Modelle
* =============
*
*
*
*
* Typenmodell für B57452V5104J062:
* ---------------------------
.SUBCKT B57452V5104J062 1 2  PARAMS: TOL=0
X1 1 2 NTC Params: 
+ B0=-16.4710190481099
+ B1=5162.00497681668
+ B2=63919.4570966831
+ B3=-53047574.22
+ B4=3478532052.4
+ R25=100000
+ T={1+TOL/100} 
+ CTH=0.035 GTH0=0.00246 GTH1=0 TK=273.15
.ENDS
*






